US05298189
First, 2-methylsulfonamidoterephthalic acid was prepared as follows. 19.4 g methanesulfonic anhydride was placed in a flask and heated to produce a liquid. 10.3 g dimethyl 2-aminoterephthalate was added to the liquid over a period of 2-3 minutes. The mixture was initially heated at 130° C. for 15 minutes and then at 100° C. for 2 hours and 30 minutes. The mixture was then cooled, 50 ml of cold water added, the mixture stirred for 1 hour and then filtered. The precipitate was recrystallized from 100 ml of methanol which yielded 10 g precipitate having a melting point of 120° C. To a flask were added 1 g of the precipitate, 40 ml of water and 0.6 g potassium hydroxide and the mixture stirred at room temperature. After 15 minutes the slurry became a solution and stirring continued for a total of 12 hours. The solution was then acidified to a pH of about 2 with 6 molar hydrochloric acid to produce a thick precipitate. The precipitate was filtered and dried to yield 0.4 g of a material having a melting point of 296°-298° C. The material was identified by NMR through its potassium salt to be 2-(methylsulfonamido)terephthalic acid.

reactant | methanesulfonic anhydride | 19.4 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | dimethyl 2-aminoterephthalate | 10.3 g | NC1=C(C(=O)OC)C=CC(=C1)C(=O)OC | C10H11NO4
reactant | potassium hydroxide | 0.6 g | [OH-].[K+]
reactant | hydrochloric acid | 6 molar | Cl | ClH
solvent | water | 40 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | 2-methylsulfonamidoterephthalic acid | CS(=O)(=O)NC1=C(C(=O)O)C=CC(=C1)C(=O)O | C9H9NO6S
